US04548940
2-(3-Aminopropylamino)-3,5-dichloropyridine (1.0 g) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone (1.04 g) were fused together on an oil bath at 140° C. for 5 hr. On cooling, water was added, the pH adjusted to 7 and the resulting solid filtered off. Chromatography (silica gel, chloroform/methanol, graded elution 50:1 to 35:1) and recrystallisation from methanol afforded 2-[3-(3,5-dichloropyrid-2-ylamino)propylamino]-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone, (0.55 g; 33%) m.p. 147°-48° C.

reactant | 2-(3-Aminopropylamino)-3,5-dichloropyridine | 1.0 g | NCCCNC1=NC=C(C=C1Cl)Cl | C8H11Cl2N3
reactant | 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone | 1.04 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | water | O | H2O
product | 2-[3-(3,5-dichloropyrid-2-ylamino)propylamino]-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone | ClC=1C(=NC=C(C1)Cl)NCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C19H20Cl2N6O
